US07385059B2
A solution of 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (205 mg; 0.72 mmol) and lithium hydroxide monohydrate (125 mg; 2.9 mmol) in 1:1 THF/water (10 ml) was heated at 60° C. overnight. The THF was removed by evaporation, the aqueous phase acidified with 1 M hydrochloric acid then extracted with ethyl acetate (20 ml). The ethyl acetate layer was dried (MgSO4), filtered and evaporated to give 200 mg of 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid. (LC/MS: [M+H]+256.85).

reactant | 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.72 mmol, 205 mg | C(C)OC(=O)C1=NNC=C1C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N2O2
reactant | lithium hydroxide monohydrate | 2.9 mmol, 125 mg | O.[OH-].[Li+]
solvent | THF water | 10 ml | C1CCOC1.O
product | 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid | 200 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NNC1)C(=O)O | C10H6Cl2N2O2
